US08378095B2
A mixture of ethyl 2-(hydroxyimino)-3-oxo-3-(pyridin-2-yl)propanoate (0.300 g, 1.4 mmol), ammonium acetate (0.104 g, 1.4 mmol) and 2,6-difluorobenzaldehyde (0.145 mL, 1.3 mmol) in acetic acid (6 mL) was heated in the microwave at 160° C. for 2 minutes. The reaction mixture was diluted with MeOH and purified by SPE using a MP-TsOH resin cartridge (2500 mg). The crude mixture obtained was purified by preparative HPLC to afford ethyl 2-(2,6-difluorophenyl)-4-(pyridin-2-yl)-1H-imidazole-5-carboxylate (0.029 g, 0.09 mmol, 7%) as a pale solid. LCMS (2) Rt: 2.46 min; m/z (ES+) 330.

reactant | ethyl 2-(hydroxyimino)-3-oxo-3-(pyridin-2-yl)propanoate | 1.4 mmol, 0.300 g | ON=C(C(=O)OCC)C(C1=NC=CC=C1)=O | C10H10N2O4
reactant | ammonium acetate | 1.4 mmol, 0.104 g | C(C)(=O)[O-].[NH4+]
reactant | 2,6-difluorobenzaldehyde | 1.3 mmol, 0.145 mL | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | CO | CH4O
product | ethyl 2-(2,6-difluorophenyl)-4-(pyridin-2-yl)-1H-imidazole-5-carboxylate | 0.09 mmol, 0.029 g, 7% | FC1=C(C(=CC=C1)F)C=1NC(=C(N1)C1=NC=CC=C1)C(=O)OCC | C17H13F2N3O2
